US05712285
Step 1: Phenylazide
Phenylhydrazine (6.7 g, 62 mmol) was added dropwise to a cold (0° C.) solution of concentrated hydrochloric acid (60 ml) over a period of 10 minutes. Diethyl ether (20 ml) was then added, followed by the dropwise addition of a solution of sodium nitrite (5 g, 72 mmol) in water (6 ml), keeping the temperature below 5° C. The reaction was then stirred at 0° C. for 1 hour and then extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with water (2×50 ml), saturated brine (50 ml), dried (MgSO4) and carefully evaporated in vacuo to give the crude title compound as a red oil (3.3 g, 45%).

reactant | Phenylhydrazine | 62 mmol, 6.7 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | Diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | sodium nitrite | 72 mmol, 5 g | N(=O)[O-].[Na+]
solvent | water | 6 ml | O | H2O
product | Phenylazide | 3.3 g, 45% | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
